* File: hw2_XOR.pex.netlist.pex
* Created: Sat Nov 23 16:27:47 2024
* Program "Calibre xRC"
* Version "v2020.2_14.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW2_XOR%A 13 19 25 29 33 37 69
c0 69 0 0.0843386f
c1 65 0 1.81539f
c2 53 0 0.0381071f
c3 52 0 0.0862338f
c4 48 0 0.0376464f
c5 47 0 0.0861915f
c6 44 0 0.120364f
c7 43 0 0.0508419f
c8 42 0 0.0762856f
c9 40 0 0.0336878f
c10 39 0 0.0111496f
c11 37 0 0.339587f
c12 33 0 0.97659f
c13 29 0 0.326805f
c14 25 0 0.971856f
c15 19 0 0.232839f
c16 16 0 0.0102743f
c17 13 0 0.912212f
c18 6 0 0.0668834f
r19 62 65 1.02202
r20 58 62 0.919543
r21 53 65 8
r22 52 55 8.10224
r23 52 54 8.10224
r24 52 53 13.2552
r25 48 62 8
r26 47 50 8.10224
r27 47 49 8.10224
r28 47 48 13.2552
r29 43 58 8
r30 42 44 8.28086
r31 42 43 13.2552
r32 37 55 126.25
r33 33 54 378.75
r34 29 50 126.25
r35 25 49 378.75
r36 22 39 0.990414
r37 22 44 53
r38 17 40 7.73958
r39 17 19 103.25
r40 16 40 7.73958
r41 15 39 3.81101
r42 15 16 5
r43 11 39 3.81101
r44 11 13 388
r45 8 69 13.2552
r46 6 40 1.29764
r47 6 8 4.86383
.ends

.subckt PM_HW2_XOR%2 14 21 28 32 36 40
c0 59 0 1.9899f
c1 49 0 0.0479538f
c2 48 0 0.0866964f
c3 44 0 0.0483077f
c4 43 0 0.0833289f
c5 40 0 0.824282f
c6 36 0 0.522035f
c7 32 0 0.77889f
c8 28 0 0.513104f
c9 24 0 0.397174f
c10 17 0 0.682505f
c11 11 0 0.043406f
c12 9 0 0.011429f
c13 5 0 0.0591165f
r14 56 59 1.03862
r15 49 59 8
r16 48 51 8.08388
r17 48 50 8.12061
r18 48 49 13.2552
r19 44 56 8
r20 43 46 8.08388
r21 43 45 8.12061
r22 43 44 13.2552
r23 40 51 306.25
r24 36 50 198.75
r25 32 46 306.25
r26 28 45 198.75
r27 23 24 8.16635
r28 21 23 2.754
r29 17 19 0.322609
r30 16 19 16.3327
r31 16 17 5.44423
r32 14 16 1.33043
r33 12 56 1.39667
r34 11 12 8
r35 8 17 1.81848
r36 8 9 0.0296412
r37 7 24 1.32817
r38 7 9 0.0296412
r39 6 9 0.00770322
r40 5 11 0.05492
r41 5 6 0.237391
.ends

.subckt PM_HW2_XOR%B 13 19 25 29 33 37 69
c0 69 0 0.0907809f
c1 65 0 2.62232f
c2 53 0 0.0491969f
c3 52 0 0.103207f
c4 48 0 0.0507752f
c5 47 0 0.097801f
c6 44 0 0.127961f
c7 43 0 0.0521078f
c8 42 0 0.0760939f
c9 40 0 0.0338834f
c10 39 0 0.0114085f
c11 37 0 0.534451f
c12 33 0 0.973029f
c13 29 0 0.528709f
c14 25 0 0.950181f
c15 19 0 0.219089f
c16 16 0 0.148182f
c17 13 0 0.823295f
c18 6 0 0.0673033f
r19 62 65 1.53649
r20 58 62 0.6305
r21 53 65 8
r22 52 55 8.10224
r23 52 54 8.10224
r24 52 53 13.2552
r25 48 62 8
r26 47 50 8.10224
r27 47 49 8.10224
r28 47 48 13.2552
r29 43 58 8
r30 42 44 8.28086
r31 42 43 13.2552
r32 37 55 170.75
r33 33 54 334.25
r34 29 50 170.75
r35 25 49 334.25
r36 22 39 0.990414
r37 22 44 53
r38 17 40 7.73958
r39 17 19 94.25
r40 16 40 7.73958
r41 15 39 3.81101
r42 15 16 58.5
r43 11 39 3.81101
r44 11 13 343.5
r45 8 69 13.2552
r46 6 40 1.29764
r47 6 8 4.86383
.ends

.subckt PM_HW2_XOR%4 15 22 29 33 37 41
c0 60 0 1.54368f
c1 50 0 0.0451862f
c2 49 0 0.0987841f
c3 45 0 0.0453574f
c4 44 0 0.091148f
c5 41 0 1.08793f
c6 37 0 0.394861f
c7 33 0 1.02683f
c8 29 0 0.391386f
c9 25 0 0.286393f
c10 18 0 0.881609f
c11 13 0 0.0548683f
c12 11 0 0.0426742f
c13 9 0 0.0128801f
r14 57 60 0.515851
r15 50 60 8
r16 49 52 8.08388
r17 49 51 8.12061
r18 49 50 13.2552
r19 45 57 8
r20 44 47 8.08388
r21 44 46 8.12061
r22 44 45 13.2552
r23 41 52 372.75
r24 37 51 132.25
r25 33 47 372.75
r26 29 46 132.25
r27 24 25 8.16635
r28 22 24 2.754
r29 18 20 0.322609
r30 17 20 16.3327
r31 17 18 5.44423
r32 15 17 1.33043
r33 12 57 1.12284
r34 11 13 0.05492
r35 11 12 8
r36 8 18 2.22022
r37 8 9 0.0296412
r38 7 25 0.926435
r39 7 9 0.0296412
r40 6 9 0.00770322
r41 6 13 0.21913
.ends

.subckt PM_HW2_XOR%C 13 19 25 29 33 37 68
c0 68 0 0.0906673f
c1 65 0 2.02232f
c2 53 0 0.0613623f
c3 52 0 0.0833949f
c4 48 0 0.0961249f
c5 47 0 0.0912864f
c6 44 0 0.115585f
c7 43 0 0.0539609f
c8 42 0 0.0762759f
c9 40 0 0.0337051f
c10 39 0 0.0113887f
c11 37 0 0.55599f
c12 33 0 0.73684f
c13 29 0 0.56843f
c14 25 0 0.763883f
c15 19 0 0.218622f
c16 16 0 0.261662f
c17 13 0 0.712943f
c18 6 0 0.0673036f
r19 62 65 0.524149
r20 58 62 1.36486
r21 53 65 8
r22 52 55 8.10224
r23 52 54 8.10224
r24 52 53 13.2552
r25 48 62 8
r26 47 50 8.10224
r27 47 49 8.10224
r28 47 48 13.2552
r29 43 58 8
r30 42 44 8.28086
r31 42 43 13.2552
r32 37 55 217.25
r33 33 54 287.75
r34 29 50 217.25
r35 25 49 287.75
r36 22 39 0.990414
r37 22 44 47.5
r38 17 40 7.73958
r39 17 19 93.75
r40 16 40 7.73958
r41 15 39 3.81101
r42 15 16 107.5
r43 11 39 3.81101
r44 11 13 295
r45 8 68 13.2552
r46 6 40 1.29764
r47 6 8 4.86383
.ends

.subckt PM_HW2_XOR%6 14 21 28 32 36 40
c0 59 0 0.734745f
c1 49 0 0.0710977f
c2 48 0 0.0897174f
c3 44 0 0.0676962f
c4 43 0 0.0896335f
c5 40 0 1.10178f
c6 36 0 0.222496f
c7 32 0 1.11751f
c8 28 0 0.227298f
c9 24 0 0.189667f
c10 17 0 1.01199f
c11 11 0 0.0373302f
c12 9 0 0.012797f
c13 5 0 0.0430644f
r14 56 59 0.503404
r15 49 59 8
r16 48 51 8.08388
r17 48 50 8.12061
r18 48 49 13.2552
r19 44 56 8
r20 43 46 8.08388
r21 43 45 8.12061
r22 43 44 13.2552
r23 40 51 424.75
r24 36 50 80.25
r25 32 46 424.75
r26 28 45 80.25
r27 23 24 8.16635
r28 21 23 2.754
r29 17 19 0.322609
r30 16 19 16.3327
r31 16 17 5.44423
r32 14 16 1.33043
r33 12 56 0.340074
r34 11 12 8
r35 8 17 2.53978
r36 8 9 0.0296412
r37 7 24 0.60687
r38 7 9 0.0296412
r39 6 9 0.00770322
r40 5 11 0.05492
r41 5 6 0.170435
.ends

.subckt PM_HW2_XOR%GND 2 69 74 79 84 89 94 99 142
c0 149 0 0.00912618f
c1 145 0 0.0131574f
c2 139 0 0.013158f
c3 136 0 0.0125277f
c4 132 0 0.00849705f
c5 128 0 0.00849705f
c6 102 0 0.103533f
c7 97 0 0.103727f
c8 92 0 0.107409f
c9 87 0 0.0939011f
c10 82 0 0.119048f
c11 77 0 0.119955f
c12 72 0 0.110597f
c13 67 0 0.00912618f
r14 140 142 0.0821739
r15 102 122 0.321391
r16 101 102 8.16635
r17 99 101 3.45789
r18 97 119 0.321391
r19 96 97 8.16635
r20 94 96 3.45789
r21 92 116 0.321391
r22 91 92 8.16635
r23 89 91 3.07895
r24 87 113 0.321391
r25 86 87 8.16635
r26 84 86 3.35368
r27 82 110 0.312261
r28 81 82 8.16635
r29 79 81 2.826
r30 77 107 0.312261
r31 76 77 8.16635
r32 74 76 2.826
r33 72 104 0.312261
r34 71 72 8.16635
r35 69 71 2.736
r36 66 67 16.3327
r37 64 67 0.483913
r38 64 153 0.421522
r39 63 66 30.4468
r40 63 64 5.44423
r41 61 122 0.00770322
r42 61 149 0.0296412
r43 61 153 0.0296412
r44 60 63 28.7234
r45 60 61 16.3327
r46 58 149 0.196304
r47 57 60 14.5532
r48 57 58 16.3327
r49 55 58 0.471739
r50 55 150 0.409348
r51 54 57 29.6809
r52 54 55 5.44423
r53 52 119 0.00770322
r54 52 145 0.0296412
r55 52 150 0.0296412
r56 51 54 27.9574
r57 51 52 16.3327
r58 49 145 0.217609
r59 48 51 15.8936
r60 48 49 16.3327
r61 46 49 0.471739
r62 46 146 0.385
r63 45 48 29.6809
r64 45 46 5.44423
r65 43 116 0.00770322
r66 43 139 0.0296412
r67 43 146 0.0296412
r68 42 45 26.4255
r69 42 43 16.3327
r70 39 139 0.18413
r71 36 39 0.456522
r72 36 142 0.311957
r73 35 36 5.44423
r74 33 113 0.00770322
r75 33 136 0.0296412
r76 33 140 0.0296412
r77 32 35 26.9809
r78 32 33 16.3327
r79 30 136 0.317739
r80 30 137 0.382261
r81 29 32 22.2128
r82 29 30 5.44423
r83 27 110 0.00770322
r84 27 132 0.0296412
r85 27 137 0.0296412
r86 26 29 26.234
r87 26 27 16.3327
r88 24 132 0.119913
r89 23 26 9.76596
r90 23 24 16.3327
r91 21 24 0.322609
r92 21 133 0.321391
r93 20 23 20.2979
r94 20 21 5.44423
r95 18 107 0.00770322
r96 18 128 0.0296412
r97 18 133 0.0296412
r98 17 20 22.4043
r99 17 18 16.3327
r100 15 128 0.126
r101 14 17 10.1489
r102 14 15 16.3327
r103 12 15 0.322609
r104 12 129 0.300087
r105 11 14 20.2979
r106 11 12 5.44423
r107 9 104 0.00770322
r108 9 125 0.0296412
r109 9 129 0.0296412
r110 8 11 21.0638
r111 8 9 16.3327
r112 5 125 0.269043
r113 4 8 19.1489
r114 4 5 8.16635
r115 2 42 13.7872
r116 2 35 28.7234
r117 2 39 16.3327
.ends

.subckt PM_HW2_XOR%VDD 2 3 10 17 26 29 36 43 125
c0 132 0 0.00956798f
c1 128 0 0.00956798f
c2 122 0 0.00956798f
c3 119 0 0.00900887f
c4 116 0 0.00900887f
c5 113 0 0.00900887f
c6 108 0 0.00956798f
c7 46 0 0.181607f
c8 39 0 0.181677f
c9 32 0 0.190457f
c10 28 0 0.162353f
c11 20 0 0.246597f
c12 13 0 0.248601f
c13 6 0 0.215172f
r14 123 125 0.182609
r15 107 108 16.3327
r16 105 108 0.483913
r17 105 136 0.421522
r18 104 107 30.4468
r19 104 105 5.44423
r20 102 152 0.00770322
r21 102 132 0.0296412
r22 102 136 0.0296412
r23 101 104 28.7234
r24 101 102 16.3327
r25 99 132 0.196304
r26 98 101 14.5532
r27 98 99 16.3327
r28 96 99 0.459565
r29 96 133 0.421522
r30 95 98 28.9149
r31 95 96 5.44423
r32 93 150 0.00770322
r33 93 128 0.0296412
r34 93 133 0.0296412
r35 92 95 28.7234
r36 92 93 16.3327
r37 90 128 0.18413
r38 89 92 13.7872
r39 89 90 16.3327
r40 87 90 0.462609
r41 87 129 0.430652
r42 86 89 29.1064
r43 86 87 5.44423
r44 84 148 0.00770322
r45 84 122 0.0296412
r46 84 129 0.0296412
r47 83 86 29.2979
r48 83 84 16.3327
r49 80 122 0.23587
r50 77 80 0.423043
r51 77 125 0.263261
r52 76 77 5.44423
r53 74 146 0.00770322
r54 74 119 0.0296412
r55 74 123 0.0296412
r56 73 76 30.2362
r57 73 74 16.3327
r58 71 119 0.445565
r59 71 120 0.181391
r60 70 73 30.2553
r61 70 71 8.16635
r62 68 144 0.00770322
r63 68 116 0.0296412
r64 68 120 0.0296412
r65 67 70 13.5957
r66 67 68 16.3327
r67 65 116 0.387739
r68 65 117 0.376174
r69 64 67 26.617
r70 64 65 5.44423
r71 62 142 0.00770322
r72 62 113 0.0296412
r73 62 117 0.0296412
r74 61 64 25.8511
r75 61 62 16.3327
r76 59 113 0.375565
r77 59 114 0.376174
r78 58 61 25.8511
r79 58 59 5.44423
r80 56 140 0.00770322
r81 56 110 0.0296412
r82 56 114 0.0296412
r83 55 58 25.8511
r84 55 56 16.3327
r85 52 110 0.262957
r86 51 55 18.766
r87 51 52 8.16635
r88 49 152 0.357609
r89 46 49 0.322609
r90 45 49 16.3327
r91 45 46 5.44423
r92 43 45 1.58696
r93 42 150 0.357609
r94 39 42 0.322609
r95 38 42 16.3327
r96 38 39 5.44423
r97 36 38 1.58696
r98 35 148 0.357609
r99 32 35 0.322609
r100 31 35 16.3327
r101 31 32 5.44423
r102 29 31 1.45652
r103 27 28 5.44423
r104 26 27 5.2418
r105 25 146 0.357609
r106 25 28 0.322609
r107 24 26 6.73928
r108 24 25 16.3327
r109 23 144 0.357609
r110 20 23 0.322609
r111 19 23 16.3327
r112 19 20 5.44423
r113 17 19 1.36522
r114 16 142 0.357609
r115 13 16 0.322609
r116 12 16 16.3327
r117 12 13 5.44423
r118 10 12 1.36522
r119 9 140 0.357609
r120 6 9 0.322609
r121 5 9 16.3327
r122 5 6 5.44423
r123 3 5 1.36522
r124 2 83 17.0426
r125 2 76 26.617
r126 2 80 16.3327
.ends

.subckt PM_HW2_XOR%S 18 35 38 47 52 57 58 65 68
c0 67 0 0.410594f
c1 64 0 0.471805f
c2 61 0 0.537154f
c3 56 0 0.533117f
c4 54 0 0.293927f
c5 49 0 0.534812f
c6 41 0 0.542238f
c7 37 0 0.534814f
c8 32 0 0.00937313f
c9 30 0 0.00549202f
c10 28 0 0.00126965f
c11 25 0 0.00207959f
c12 22 0 0.250036f
c13 18 0 0.128084f
c14 15 0 0.0920334f
c15 13 0 0.0176142f
c16 12 0 0.0788337f
c17 10 0 0.0613571f
c18 8 0 0.346137f
c19 6 0 0.338666f
c20 4 0 0.313205f
r21 66 68 5.43963
r22 66 67 8.16635
r23 63 65 4.87121
r24 63 64 8.16635
r25 60 61 8.16635
r26 58 60 3.55263
r27 55 57 4.77647
r28 55 56 8.16635
r29 53 54 5.44423
r30 52 53 4.80701
r31 51 54 0.322609
r32 50 52 6.31319
r33 50 51 16.3327
r34 48 49 5.44423
r35 47 48 4.28527
r36 46 49 0.322609
r37 45 47 5.79145
r38 45 46 16.3327
r39 41 43 0.322609
r40 40 43 16.3327
r41 40 41 5.44423
r42 38 40 1.58696
r43 36 37 5.44423
r44 35 36 4.19832
r45 34 37 0.322609
r46 33 35 5.7045
r47 33 34 16.3327
r48 31 54 1.0637
r49 29 67 1.64774
r50 29 30 0.00770322
r51 27 49 1.48978
r52 27 28 0.035
r53 26 64 1.64774
r54 26 28 0.035
r55 24 41 1.48978
r56 24 25 0.0175
r57 23 61 1.64774
r58 23 25 0.0175
r59 21 37 1.48978
r60 21 22 0.035
r61 20 56 1.64774
r62 20 22 0.035
r63 16 32 0.0296412
r64 16 18 0.407826
r65 14 32 0.00770322
r66 14 15 0.356087
r67 13 31 0.039111
r68 12 15 0.039111
r69 12 13 0.316522
r70 11 30 0.0296412
r71 10 32 0.0296412
r72 10 11 0.316522
r73 9 28 0.035
r74 8 30 0.0296412
r75 8 9 1.07739
r76 7 25 0.0175
r77 6 28 0.035
r78 6 7 1.07435
r79 5 22 0.035
r80 4 25 0.0175
r81 4 5 1.03174
.ends

.subckt PM_HW2_XOR%10 1 2
r0 1 2 1.91304
.ends

.subckt PM_HW2_XOR%11 1 2
r0 1 2 1.95652
.ends

.subckt PM_HW2_XOR%12 1 2
r0 1 2 2.08696
.ends

.subckt PM_HW2_XOR%13 1 2
r0 1 2 2.34783
.ends

.subckt PM_HW2_XOR%14 1 2
r0 1 2 1.86957
.ends

.subckt PM_HW2_XOR%15 1 2
r0 1 2 1.91304
.ends

.subckt PM_HW2_XOR%16 1 2
r0 1 2 1.6087
.ends

.subckt PM_HW2_XOR%17 1 2
r0 1 2 1.91304
.ends

.subckt PM_HW2_XOR%18 1 2
r0 1 2 4.16842
.ends

.subckt PM_HW2_XOR%19 1 2
r0 1 2 4.26316
.ends

.subckt PM_HW2_XOR%20 1 2
r0 1 2 4.54737
.ends

.subckt PM_HW2_XOR%21 1 2
r0 1 2 5.11579
.ends

.subckt PM_HW2_XOR%22 1 2
r0 1 2 4.07368
.ends

.subckt PM_HW2_XOR%23 1 2
r0 1 2 4.16842
.ends

.subckt PM_HW2_XOR%24 1 2
r0 1 2 3.50526
.ends

.subckt PM_HW2_XOR%25 1 2
r0 1 2 4.16842
.ends

